US05079260
A solution of N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-leucine, acid chloride (3.5 g, 10 mmol) in 50 mL of THF was charged with solution of methylamine (0.62 g, 20 mmol) in 50 mL of dichloromethane, at room temperature. The reaction mixture was stirred for 30 min. The solvents were removed and the residue was dissolved in 100 mL of ethyl acetate. The solution was washed with aqueous solution of 10% potassium carbonate, water, brine, dried over magnesium sulfate and evaporated. Recrystallization of the product from ethyl acetate/hexane mixture afforded 1.67g (46.6%) of N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-leucine methylamide, mp 173°-174° C.

reactant | N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-leucine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)O | C21H23NO4
reactant | methylamine | 20 mmol, 0.62 g | CN | CH5N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-leucine methylamide | 1.67g, 46.6% | CNC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(C)C)=O | C22H26N2O3
